US06005116
(a) 4-Bromo-3-(2-(N-tert-butoxycarbonylamino)ethoxy)-5-phenylisoxazole
4-Bromo-3-hydroxy-5-phenylisoxazole (0.2 g) and 2-(N-tert-butoxycarbonylamino)ethanol (0.15 g) were subjected to reaction and post-treatment in a similar manner to that described in Example 9(a) to obtain the title compound (0.26 g, 81%) as a colorless powder.

reactant | 4-Bromo-3-hydroxy-5-phenylisoxazole | 0.2 g | BrC=1C(=NOC1C1=CC=CC=C1)O | C9H6BrNO2
reactant | 2-(N-tert-butoxycarbonylamino)ethanol | 0.15 g | C(C)(C)(C)OC(=O)NCCO | C7H15NO3
product | 4-Bromo-3-(2-(N-tert-butoxycarbonylamino)ethoxy)-5-phenylisoxazole | 0.26 g, 81% | BrC=1C(=NOC1C1=CC=CC=C1)OCCNC(=O)OC(C)(C)C | C16H19BrN2O4
